US08937150B2
1-(4-((2R,5R)-2,5-bis(4-chloro-2-fluoro-5-nitrophenyl)pyrrolidin-1-yl)-2,6-difluorophenyl)piperidine
To a solution of (1S,4S)-1,4-bis(4-chloro-2-fluoro-5-nitrophenyl)butane-1,4-diyl dimethanesulfonate (500 mg, 0.843 mmol) in CH3CN (4.5 ml) was added 3,5-difluoro-4-(piperidin-1-yl)aniline (358 mg, 1.685 mmol) and Hunig's base (0.736 mL, 4.21 mmol). The suspension was heated at 75° C. for 24 hours. Solvent was removed by rotary evaporation and the residue was dissolved in EtOAc, washed with 1 N HCl, H2O, brine, dried (MgSO4), filtered and concentrated. The crude product was chromatographed on an ISCO 24 g silica gel cartridge eluting with 20-70% CH2Cl2/hexane to provide the title compound with some of the corresponding cis-pyrrolidine isomer.

reactant | (1S,4S)-1,4-bis(4-chloro-2-fluoro-5-nitrophenyl)butane-1,4-diyl dimethanesulfonate | 0.843 mmol, 500 mg | CS(=O)(=O)O[C@@H](CC[C@@H](C1=C(C=C(C(=C1)[N+](=O)[O-])Cl)F)OS(=O)(=O)C)C1=C(C=C(C(=C1)[N+](=O)[O-])Cl)F | C18H16Cl2F2N2O10S2
reactant | 3,5-difluoro-4-(piperidin-1-yl)aniline | 1.685 mmol, 358 mg | FC=1C=C(N)C=C(C1N1CCCCC1)F | C11H14F2N2
reactant | Hunig's base | 4.21 mmol, 0.736 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 4.5 ml | CC#N | C2H3N
product | 1-(4-((2R,5R)-2,5-bis(4-chloro-2-fluoro-5-nitrophenyl)pyrrolidin-1-yl)-2,6-difluorophenyl)piperidine | ClC1=CC(=C(C=C1[N+](=O)[O-])[C@@H]1N([C@H](CC1)C1=C(C=C(C(=C1)[N+](=O)[O-])Cl)F)C1=CC(=C(C(=C1)F)N1CCCCC1)F)F | C27H22Cl2F4N4O4
